US04126140
PREPARATION OF 4-BUTYL-4-HYDROXY-3,5,5-TRIMETHYL-2-CYCLOHEXEN-1-ONE
A solution of 20 g of 2,7,9,9-tetramethyl-1,4-dioxaspiro [4,5]dec-6-en-8-one (prepared by the method of Example III) in hexane is stirred while a solution of n-butyl lithium in hexane is added dropwise. When no additional exotherm occured the addition is stopped and the mixture is stirred for about 15 minutes. Water is added with stirring to hydrolyze the lithium salt. The organic layer is separated and the hexane is allowed to evaporate, leaving oily crystals which are recrystallized from cyclohexane yielding 10 g of 4-butyl-4-hydroxy-3,5,5-trimethyl-2-cyclohexen-1-one, m.p. 90°-93° C. The compound exhibits the following spectral characteristics:

reactant | 2,7,9,9-tetramethyl-1,4-dioxaspiro [4,5]dec-6-en-8-one | 20 g | CC1OC2(OC1)C=C(C(C(C2)(C)C)=O)C | C12H18O3
reactant | n-butyl lithium | C(CCC)[Li]
reactant | Water | O | H2O
reactant | lithium | [Li] | Li
solvent | hexane | CCCCCC | C6H14
product | 4-BUTYL-4-HYDROXY-3,5,5-TRIMETHYL-2-CYCLOHEXEN-1-ONE | C(CCC)C1(C(=CC(CC1(C)C)=O)C)O | C13H22O2
